US06492421B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-4-{3-[4-(3-chlorophenyl)piperazin-1-yl]propoxy}-L-phenylalanine
The methyl ester was prepared via O-alkylation of N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester with 1-(3-chlorophenyl)-4-(3-chloro-propyl)piperazine in refluxing 2-butanone in the presence of potassium carbonate and sodium iodide. The title compound was prepared using the procedure described in Method 7 as a solid, mp=116-8° C.

reactant | N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)O)=O | C22H26N2O6S
reactant | 1-(3-chlorophenyl)-4-(3-chloro-propyl)piperazine | ClC=1C=C(C=CC1)N1CCN(CC1)CCCCl | C13H18Cl2N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | N-(Toluene-4-sulfonyl)-L-prolyl-4-{3-[4-(3-chlorophenyl)piperazin-1-yl]propoxy}-L-phenylalanine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=C(C=C2)OCCCN2CCN(CC2)C2=CC(=CC=C2)Cl)C(=O)O)CCC1)C | C34H41ClN4O6S
